data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_355692_1,[C:1]([C:2]([C:5]([C:3]([N:6]([H:11])[H:12])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[O:8][H:9])([H:13])[H:14])(=[O:7])[H:10]>>[C:1]([C:2]([C:5]([C:4]([H:17])([H:18])[H:19])=[O:8])([H:13])[H:14])([C:3]([N:6]([H:11])[H:12])([H:15])[H:16])([O:7][H:9])[H:10],62.97527250001622
MR_603597_0,[C:1](/[N:5]=[C:3](/[O:4][N:2]([H:6])[H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:5]([C:3]([N:2]([H:6])[H:7])=[O:4])[H:8])([H:9])([H:10])[H:11],73.03974500000237
MR_528062_1,[N:1]([C:2]([N:4]([H:10])[H:11])=[C:5]([H:13])[H:14])([N:3]([H:8])[H:9])/[N:6]=[N:7]\[H:12]>>[N:1](=[C:2](\[N:4]([H:10])[H:11])[C:5](/[N:6]=[N:7]\[H:12])([H:13])[H:14])\[N:3]([H:8])[H:9],45.48496500001647
MR_398617_1,[N:1](/[C:2]([N:4]([H:12])[H:13])=[C:5](/[C:6](=[C:7]([H:16])[H:17])[H:15])[H:14])([N:3]([H:10])[H:11])[O:8][H:9]>>[N:1]([N:3]([H:10])[H:11])(/[C:5](=[C:2](\[N:4]([H:12])[H:13])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:14])[O:8][H:9],70.36973250000202
MR_538333_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])(/[C:5]([C:4]([H:18])([H:19])[H:20])=[N:8]/[N:6]([H:10])[H:11])[N:7]=[O:9]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])[C@:5]([C:4]([H:18])([H:19])[H:20])([N:7]=[O:9])[N:8]1[N:6]([H:10])[H:11],61.53202249998614
MR_673785_0,[C:1]([C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])=[O:7])([N:5]([H:11])[H:12])([O:6][H:9])[H:10]>>[C:1]([C:3]([C:4]([C:2]([H:13])([H:14])[H:15])([N:5]([H:11])[H:12])[O:8][H:9])=[O:7])(=[O:6])[H:10],39.73894749997072
MR_89392_1,[C:1]([C:5]([N:3](/[C:4](=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])[O:7][H:9])[H:10])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:5]([C:6]([C:2]([H:15])([H:16])[H:17])(/[C:4](=[N:3]/[H:10])[O:7][H:9])[H:11])=[O:8])([H:12])([H:13])[H:14],60.91393500004855
MR_565430_1,[C:1]([C:2]([N:5]([C:7]([C:3]([N:6]([H:10])[H:18])([H:16])[H:17])=[C:9]([H:21])[H:22])[N:8]([H:12])[H:13])([H:14])[H:15])(=[C:4]([H:19])[H:20])[H:11]>>[C:1]1([C:4]([H:18])([H:19])[H:20])([H:11])[C:2]([H:14])([H:15])[N:5]([N:8]([H:12])[H:13])[C:7](=[C:9]([H:21])[H:22])[C:3]([H:16])([H:17])[N:6]1[H:10],57.144542500006
MR_606879_1,[C:1](/[N:7]=[C:4](\[C:2]([H:14])([H:15])[H:16])[C:3]([O:6][N:5]([H:9])[H:10])=[O:8])([H:11])([H:12])[H:13]>>[C:1]([N:7]1[C:3](=[O:8])[C:4]1([C:2]([H:14])([H:15])[H:16])[O:6][N:5]([H:9])[H:10])([H:11])([H:12])[H:13],72.31686500000833
MR_244110_0,[C@:1]([C:2]([H:12])([H:13])[H:14])([N:5]([C:3]([H:15])([H:16])[H:17])[H:10])([O:7][H:9])/[N:8]=[C:6](/[C:4]([H:18])([H:19])[H:20])[H:11]>>[C:1](\[C:2]([H:12])([H:13])[H:14])([O:7][H:9])=[N:8]/[C@:6]([C:4]([H:18])([H:19])[H:20])([N:5]([C:3]([H:15])([H:16])[H:17])[H:10])[H:11],49.9722174999944
MR_659527_1,[C:1]([C:6](/[C:5](=[C:7](\[C:2]([H:17])([H:18])[H:19])[N:9]([H:12])[H:13])[O:10][H:11])=[C:8]([C:3]([H:20])([H:21])[H:25])[C:4]([H:22])([H:23])[H:24])([H:14])([H:15])[H:16]>>[C:1]([C:6]1=[C:5]([O:10][H:11])[C:7]([C:2]([H:17])([H:18])[H:19])([N:9]([H:12])[H:13])[C:8]1([C:3]([H:20])([H:21])[H:25])[C:4]([H:22])([H:23])[H:24])([H:14])([H:15])[H:16],36.09505500000367
MR_547006_2,[C:1](\[N:5]([C:2]([C:6]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])[O:8][H:11])([H:13])[H:14])[H:9])(=[N:7]/[H:12])[H:10]>>[C:1]([C:3]([H:15])([H:16])[H:17])([N:5]([C:2]([C:6]([C:4]([H:18])([H:19])[H:20])=[O:8])([H:13])[H:14])[H:9])([N:7]([H:11])[H:12])[H:10],65.1771699999857
MR_260133_0,[C:1]([N:3]([H:9])[H:10])(/[C:4](=[N:6]\[C:2]([H:12])([H:13])[H:14])[H:11])([O:5][H:7])[H:8]>>[C:1]1([N:3]([H:9])[H:10])([H:8])[C:4]([O:5][H:7])([H:11])[N:6]1[C:2]([H:12])([H:13])[H:14],54.33647999999749
MR_117553_0,[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])(/[C:5](=[N:7]/[H:13])[H:14])[H:10])([N:4]([H:11])[H:12])([O:6][H:8])[H:9]>>[C:1](\[C:2]([C:3]([H:15])([H:16])[H:17])([C:5]([N:7]([H:11])[H:13])([H:9])[H:14])[H:10])(=[N:4]/[H:12])[O:6][H:8],59.32259500000001
MR_382341_1,[C:1]([C:2]([H:12])([H:14])[H:15])([C:3]([H:13])([H:16])[H:17])([C:4]([O:6][H:9])=[O:8])/[C:5](=[N:7]\[H:10])[H:11]>>[C:1]([C:2]([H:12])([H:14])[H:15])([C:3]([H:13])([H:16])[H:17])=[C:4]([O:6][H:9])[O:8]/[C:5](=[N:7]\[H:10])[H:11],68.53868750002363
MR_556087_0,[C:1]([n:3]1[c:4](=[O:9])[o:8][c:6]([C:2]([H:15])([H:16])[H:17])[c:5]1[N:7]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[C:5](/[C@@:6]1([C:2]([H:15])([H:16])[H:17])[C:4](=[O:9])[O:8]1)[N:7]([H:10])[H:11])([H:12])([H:13])[H:14],68.30274749997727
MR_246265_0,[C:1]([C:2]([C:5]([H:18])([H:19])[H:20])([C:6]([H:21])([H:22])[H:23])[O:9][H:11])([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:7][O:8][H:10]>>[C:1]([C:2]([C:5]([H:18])([H:19])[H:20])([C:6]([H:21])([H:22])[H:23])[O:7][O:8][H:10])([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:9][H:11],69.80121750001061
MR_572296_1,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([C:5]([C:2]([O:7][H:10])([O:8][H:11])[H:12])=[O:9])[N:6]([H:13])[H:14]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([C:5]([C:2](=[O:7])[O:8][H:11])([O:9][H:10])[H:12])[N:6]([H:13])[H:14],47.28463500000274
